* c:\users\senba\esim-workspace\74hc157_sch\74hc157_sch.cir

* u13  net-_u11-pad3_ net-_u13-pad2_ d_inverter
* u14  net-_u13-pad2_ ? net-_u14-pad3_ d_nor
* u15  net-_u11-pad3_ net-_u11-pad4_ net-_u15-pad3_ d_nor
* u16  net-_u14-pad3_ net-_u12-pad9_ net-_u16-pad3_ d_and
* u17  net-_u15-pad3_ net-_u12-pad10_ net-_u17-pad3_ d_and
* u18  net-_u14-pad3_ net-_u12-pad11_ net-_u18-pad3_ d_and
* u19  net-_u15-pad3_ net-_u12-pad12_ net-_u19-pad3_ d_and
* u20  net-_u14-pad3_ net-_u12-pad13_ net-_u20-pad3_ d_and
* u21  net-_u15-pad3_ net-_u12-pad14_ net-_u21-pad3_ d_and
* u22  net-_u14-pad3_ net-_u12-pad15_ net-_u22-pad3_ d_and
* u23  net-_u15-pad3_ net-_u12-pad16_ net-_u23-pad3_ d_and
* u24  net-_u16-pad3_ net-_u17-pad3_ net-_u24-pad3_ d_nor
* u25  net-_u18-pad3_ net-_u19-pad3_ net-_u25-pad3_ d_nor
* u26  net-_u20-pad3_ net-_u21-pad3_ net-_u26-pad3_ d_nor
* u27  net-_u22-pad3_ net-_u23-pad3_ net-_u27-pad3_ d_nor
* u28  net-_u24-pad3_ net-_u28-pad2_ d_inverter
* u29  net-_u25-pad3_ net-_u29-pad2_ d_inverter
* u30  net-_u26-pad3_ net-_u30-pad2_ d_inverter
* u31  net-_u27-pad3_ net-_u31-pad2_ d_inverter
* u12  a1 a2 b1 b2 c1 c2 d1 d2 net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ adc_bridge_8
* u11  s enbar net-_u11-pad3_ net-_u11-pad4_ adc_bridge_2
v9  s gnd pulse(5 0 0 0.001 0.001 3 6)
v10  enbar gnd pulse(0 5 0 0.001 0.001 1 6)
v1  a1 gnd pulse(0 5 0 0.001 0.001 1 2)
v2  a2 gnd pulse(0 5 0 0.001 0.001 1 2)
v3  b1 gnd pulse(0 5 0 0.001 0.001 1 2)
v4  b2 gnd pulse(0 5 0 0.001 0.001 1 2)
v5  c1 gnd pulse(0 5 0 0.001 0.001 1 2)
v6  c2 gnd pulse(0 5 0 0.001 0.001 1 2)
v7  d1 gnd pulse(0 5 0 0.001 0.001 1 2)
v8  d2 gnd pulse(0 5 0 0.001 0.001 1 2)
* u32  net-_u28-pad2_ net-_u29-pad2_ net-_u30-pad2_ net-_u31-pad2_ y1 y2 y3 y4 dac_bridge_4
* u8  enbar plot_v1
* u10  s plot_v1
* u1  a1 plot_v1
* u3  a2 plot_v1
* u9  b1 plot_v1
* u6  b2 plot_v1
* u7  c1 plot_v1
* u4  c2 plot_v1
* u5  d1 plot_v1
* u2  d2 plot_v1
* u33  y1 plot_v1
* u34  y2 plot_v1
* u35  y3 plot_v1
* u36  y4 plot_v1
a1 net-_u11-pad3_ net-_u13-pad2_ u13
a2 [net-_u13-pad2_ ? ] net-_u14-pad3_ u14
a3 [net-_u11-pad3_ net-_u11-pad4_ ] net-_u15-pad3_ u15
a4 [net-_u14-pad3_ net-_u12-pad9_ ] net-_u16-pad3_ u16
a5 [net-_u15-pad3_ net-_u12-pad10_ ] net-_u17-pad3_ u17
a6 [net-_u14-pad3_ net-_u12-pad11_ ] net-_u18-pad3_ u18
a7 [net-_u15-pad3_ net-_u12-pad12_ ] net-_u19-pad3_ u19
a8 [net-_u14-pad3_ net-_u12-pad13_ ] net-_u20-pad3_ u20
a9 [net-_u15-pad3_ net-_u12-pad14_ ] net-_u21-pad3_ u21
a10 [net-_u14-pad3_ net-_u12-pad15_ ] net-_u22-pad3_ u22
a11 [net-_u15-pad3_ net-_u12-pad16_ ] net-_u23-pad3_ u23
a12 [net-_u16-pad3_ net-_u17-pad3_ ] net-_u24-pad3_ u24
a13 [net-_u18-pad3_ net-_u19-pad3_ ] net-_u25-pad3_ u25
a14 [net-_u20-pad3_ net-_u21-pad3_ ] net-_u26-pad3_ u26
a15 [net-_u22-pad3_ net-_u23-pad3_ ] net-_u27-pad3_ u27
a16 net-_u24-pad3_ net-_u28-pad2_ u28
a17 net-_u25-pad3_ net-_u29-pad2_ u29
a18 net-_u26-pad3_ net-_u30-pad2_ u30
a19 net-_u27-pad3_ net-_u31-pad2_ u31
a20 [a1 a2 b1 b2 c1 c2 d1 d2 ] [net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ ] u12
a21 [s enbar ] [net-_u11-pad3_ net-_u11-pad4_ ] u11
a22 [net-_u28-pad2_ net-_u29-pad2_ net-_u30-pad2_ net-_u31-pad2_ ] [y1 y2 y3 y4 ] u32
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u14 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u27 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u32 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(enbar) + 6v(s) + 12v(a1) + 18v(a2) + 24v(y1)



.endc
.end
